Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___
 
___ Complaint:
Right knee pain and weakness
 
Major Surgical or Invasive Procedure:
R quadriceps tendon repair on ___ ___.

 
History of Present Illness:
___ w/ chronic R quadriceps tendon rupture (likely occurring 
___ now s/p R quadriceps tendon repair on ___ ___.
 
Past Medical History:
Remote drug abuse
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge PE:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: nonlabored breathing on room air
Cardiovascular: RR 
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Right Lower Extremity:  
* Aquacel dressing in place with scant sanguineous drainage
* In long leg bivalve cast 
* No calf tenderness  
* Fires FHL, ___, TA, GCS 
* SILT on plantar and dorsum foot 
* 2+ DP pulse, toes WWP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD0: Long leg bivalve cast was placed in the PACU to help 
maintain strict knee extension.
POD1: pain well controlled. Ambulated well with ___. Patient 
cleared and discharged home with services. 

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Aspirin 325 mg twice 
daily for DVT prophylaxis starting on the morning of POD#1.  The 
surgical dressing will remain on until POD#7 after surgery. The 
patient was seen daily by physical therapy. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's pain was adequately controlled on an oral regimen. The 
operative extremity was neurovascularly intact and the dressing 
was intact. 

The patient's weight-bearing status is touch down weight bearing 
on the operative extremity. 
 
Ms. ___ is discharged to home with services in stable 
condition.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth every 8 hours as needed Disp #*100 Tablet 
Refills:*0 
2.  Aspirin 325 mg PO BID 
RX *aspirin 325 mg 1 tablet(s) by mouth twice daily Disp #*56 
Tablet Refills:*0 
3.  Ibuprofen 800 mg PO Q8H pain 
RX *ibuprofen 800 mg 1 tablet(s) by mouth three times daily prn 
Disp #*90 Tablet Refills:*0 
4.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*28 
Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours prn 
Disp #*42 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily prn 
Disp #*60 Tablet Refills:*0 
7.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily prn 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right quadriceps tendon rupture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Wound Care:
•Remove dressing ___
•Showering after 4 days is fine; be sure to pat the incision 
dry afterwards.
•Do not scrub the area; just allow water/soap to wash over you.
•Do not bath or swim until approved by surgeon.
•Keep cast clean and dry. Do not get wet.

Braces/Devices:
•With an Open Knee Surgery, you will wear your cast for at 
least 6 weeks after surgery.
* Keep your cast in place at all times except for showering. 
Your knee should be straight at all times.
* OK for range of motion of right hip, ankle and toes. Right 
knee must be kept at full extension at all times.

Crutches/Walker & Weight bearing status:   
•Touchdown weight bearing right lower extremity 

Physical Therapy: 
•Formal physical therapy may be ordered by your orthopedic 
surgeon in the form of a written prescription at your first or 
second follow up appt. If you are not given a prescription for 
___ upon discharge, you will discuss ___ options at your first 
post op appointment. 

Pain Control: 
Narcotics
•You have been prescribed a narcotic pain medication.   You may 
call ___ for refills as needed.  Please review a copy 
of our narcotics policy which is attached.
•Use the medication only as prescribed. Take it with food.
•Do not drive or use any type of heavy machinery, drink 
alcohol, make any life-changing or legal decisions (i.e. sign a 
will), or participate in activities that require a lot of 
physical skill.
•Take a stool softener, such as Colace, while taking the 
narcotic medication, because narcotics may cause constipation.
         
Non- Steroidal Anti-Inflammatory Medications:
•Please take an over the counter non-steroidal 
anti-inflammatory such as Motrin, Advil, Ibuprofen (600 mg every 
8 hours) or Aleve (500 mg every 12 hours) for additional pain 
control, only if you do not have a contraindication to taking 
this medication (i.e. allergy to the medication, stomach ulcers 
or kidney problems).
•Take this medication with food, and try to stagger the times 
you take this medication with your pain medication.  This may 
help decrease the chance of stomach upset.
•If you can take Aspirin without any difficulty, then you 
should take Aspirin 325 mg twice daily for 4 weeks, starting the 
day of your surgery. 

Driving:
•In general, you can resume driving after your first post-op 
appointment,   when you have full control of your arms and legs 
and you are pain free.  Do not drive if you are still taking 
narcotic pain medications and/or you are still partial weight 
bearing.

Return to Work:
•You may return to work as soon as you are comfortable and able 
to safely weight bear using crutches.  This typically occurs 2–4 
weeks post-op.  Return to work notes can be obtained from your 
orthopedic surgeon at your first post-op appointment.

Follow-up Appointment:
•Your first post-operative appointment will be scheduled ___ 
weeks following your surgical procedure. At this appointment 
your sutures will be removed.  If you do not have a 
post-operative appointment scheduled when you leave following 
surgery, please call ___ to make the appointment.  Your 
first post-operative appointment will be with a Physicians’ 
Assistant (PA) or a Nurse Practitioner (___).

****Signs & Symptoms to Immediately Report****
•Call ___ and go to the nearest hospital if you are having 
chest pain or trouble breathing.

Call the office at: ___ to report any of the following:
•Persistent fever (101 or greater)
•Sudden increase in pain and swelling
•Wound redness or drainage
•Increased skin temperature around incision
•Deep calf pain and swelling
Physical Therapy:
Braces/Devices:
•With an Open Knee Surgery, you will wear your cast for at 
least 6 weeks after surgery.
* Keep your cast in place at all times except for showering. 
Your knee should be straight at all times.
* OK for range of motion of right hip, ankle and toes. Right 
knee must be kept at full extension at all times.

Crutches/Walker & Weight bearing status:   
•Touchdown weight bearing right lower extremity 
Treatments Frequency:
Wound Care:
•Remove dressing ___
•Showering after 4 days is fine; be sure to pat the incision 
dry afterwards.
•Do not scrub the area; just allow water/soap to wash over you.
•Do not bath or swim until approved by surgeon.
•Keep cast clean and dry. Do not get wet.

Dry sterile dressing changes as needed for draining wounds.
 
Followup Instructions:
___